US04786638
(Step 4) Preparation of Methyl 5-Cyano-2-cyclohexyl-1,6-dihydro-4-(methylthio)-6-oxo-1-pyrimidineacetate
To a cooled (0° C.), stirred suspension of NaH (50% dispersion in mineral oil, washed with hexane, 2.2 g, 0.047 (mol) in DME (350 mL) was added 2-cyclohexyl-1,6-dihydro-4-(methylthio)-6-oxo-5-pyrimidinecarbonitrile (9.5 g, 0.038 mol) in several portions. After 1 hour, methyl bromoacetate was added and the resulting solution was heated at 95°-100° C. for 2 days. The solution was cooled and water (300 mL) was added. The mixture was extracted with ethyl acetate and the combined extracts were washed with water, dried (MgSO4), and concentrated to give a beige powder (12.2 g, 99%) which was used without further purification.

reactant | NaH | [H-].[Na+]
reactant | 2-cyclohexyl-1,6-dihydro-4-(methylthio)-6-oxo-5-pyrimidinecarbonitrile | 0.038 mol, 9.5 g | C1(CCCCC1)C=1NC(C(=C(N1)SC)C#N)=O | C12H15N3OS
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
solvent | water | 300 mL | O | H2O
product | Methyl 5-Cyano-2-cyclohexyl-1,6-dihydro-4-(methylthio)-6-oxo-1-pyrimidineacetate | 12.2 g, 99% | C(#N)C1=C(N=C(N(C1=O)CC(=O)OC)C1CCCCC1)SC | C15H19N3O3S
